US07700634B2
To a solution of sulfuric acid (3.5 ml, 65.3 mmol) in methanol (45 ml) was added D-proline (10.0 g, 86.9 mmol). The mixture was refluxed with stirring for 18 h. The solution was then cooled to 0° C. and neutralised by addition of aqueous potassium carbonate (2.5 M; 10 ml). Formaldehyde (37% solution in water; 11 ml, 136 mmol) was added and the mixture stirred at 0° C. for 15 minutes. Sodium borohydride (1.6 g, 42.3 mmol) was added at 0° C. and the mixture was stirred at room temperature for 3 h. The precipitate was filtered off and the filtrate was partitioned between dichloromethane and water. The isolated aqueous layer was adjusted to pH 10 using solid sodium carbonate and extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo to afford crude (R)-1-methylpyrrolidine-2-carboxylic acid methyl ester (13.13 g).

reactant | sulfuric acid | 65.3 mmol, 3.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | D-proline | 86.9 mmol, 10.0 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 2.5 M, 10 ml | C([O-])([O-])=O.[K+].[K+]
reactant | Formaldehyde | 136 mmol, 11 ml | C=O | CH2O
reactant | Sodium borohydride | 42.3 mmol, 1.6 g | [BH4-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
product | (R)-1-methylpyrrolidine-2-carboxylic acid methyl ester | 13.13 g | COC(=O)[C@@H]1N(CCC1)C | C7H13NO2
